* Extracted by KLayout with SG13G2 LVS runset on : 05/04/2026 15:09

.SUBCKT CP 1 2 3 5 7 8 9 10 11
M$1 6 5 7 1 sg13_lv_nmos L=2u W=3u AS=1.02p AD=1.02p PS=6.68u PD=6.68u
M$2 1 9 4 1 sg13_lv_nmos L=2u W=3u AS=1.02p AD=1.02p PS=6.68u PD=6.68u
M$3 4 5 5 1 sg13_lv_nmos L=2u W=3u AS=1.02p AD=1.02p PS=6.68u PD=6.68u
M$4 1 8 6 1 sg13_lv_nmos L=2u W=3u AS=1.02p AD=1.02p PS=6.68u PD=6.68u
M$5 9 1 14 9 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
M$6 9 11 12 9 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
M$7 12 10 7 9 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
M$8 14 10 5 9 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
M$9 9 1 13 9 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
M$10 13 10 10 9 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
R$49 7 2 rsil w=0.5u l=3848u ps=0 b=0 m=1
R$88 3 7 rsil w=0.5u l=3848u ps=0 b=0 m=1
C$89 3 1 cap_cmim w=55.85u l=55.85u A=3119.2225p P=223.4u m=12
C$91 2 1 cap_cmim w=41.7u l=41.7u A=1738.89p P=166.8u m=8
.ENDS CP
